US04341757
Nicotine
Penicillin & Gentamicin

reactant | Penicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+]
reactant | Gentamicin | C[C@H]([C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H](C[C@H]([C@@H]([C@H]2O)O[C@@H]3[C@@H]([C@H]([C@@](CO3)(C)O)NC)O)N)N)N)NC | C21H43N5O7
product | Nicotine | N1=CC=CC(=C1)C1N(C)CCC1 | C10H14N2
